US08304419B2
A solution of sodium hydrosulfite (4.42 g, 21.45 mmol) in water (25 mL) was added dropwise to a solution of 2-fluoro-1-methyl-4-nitro-3-(phenyloxy)benzene (0.884 g, 3.58 mmol) in THF (10 mL). The mixture was stirred at room temperature overnight. The reaction mixture was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine and dried over sodium sulfate. The solvent was evaporated and the residue was purified by chromatography (ethyl acetate:hexane) to give [3-fluoro-4-methyl-2-(phenyloxy)phenyl]amine (0.444 g, 51.4%) as a colorless oil, which crystallized after standing overnight. 1H NMR (400 MHz, chloroform-d) δ ppm 7.23-7.33 (m, 2H), 7.03 (t, 1H), 6.94 (d, 2H), 6.83 (t, 1H), 6.51 (dd, 1H), 3.40 (br. s., 2H), 2.18 (d, 3H). ES MS: m/z 217.

reactant | sodium hydrosulfite | 21.45 mmol, 4.42 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-fluoro-1-methyl-4-nitro-3-(phenyloxy)benzene | 3.58 mmol, 0.884 g | FC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])C | C13H10FNO3
solvent | water | 25 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [3-fluoro-4-methyl-2-(phenyloxy)phenyl]amine | 0.444 g, 51.4% | FC=1C(=C(C=CC1C)N)OC1=CC=CC=C1 | C13H12FNO
